US08865736B2
3-(9-Decynyloxy)benzenecarboxamide
Synthesised from 3-hydroxybenzenecarboxamide and 10-undecyn-1-ol according to Method C, scheme 3; mp 111-112° C., HPLC-MS (method 1): m/z 274 [M+H]+, Rt=4.61 min.

reactant | 3-hydroxybenzenecarboxamide | OC=1C=C(C=CC1)C(=O)N | C7H7NO2
reactant | 10-undecyn-1-ol | C(CCCCCCCCC#C)O | C11H20O
product | 3-(9-Decynyloxy)benzenecarboxamide | C(CCCCCCCC#C)OC=1C=C(C=CC1)C(=O)N | C17H23NO2
